US09376422B2
tert-Butyl-4-{[3-(methoxycarbonyl)-2-methyl-5-(trifluoromethyl)phenyl]amino}piperidine-1-carboxylate
To a stirred solution of methyl 3-amino-2-methyl-5-(trifluoromethyl)benzoate (6.00 g, 25.7 mmol) in CH2Cl2 (120 mL) and AcOH (6 mL) was added N-Boc piperidinone (6.70 g, 33.4 mmol) and sodium triacetoxyborohydride (13.6 g, 64.3 mmol). The reaction mixture was stirred at 23° C. for 20 hours. Then saturated NaHCO3 was added and the mixture was separated. The aqueous layer was extracted with CH2Cl2 (3×50 mL) and the combined organic layer were concentrated in vacuo. The residue was purified by silica gel column chromatography (SiO2 heptane/EtOAc=4/1) to give the titled compound (10.6 g, 98% yield). 1H-NMR (400 MHz, CDCl3) δppm; 7.37 (s, 1H), 6.88 (s, 1H), 4.05 (m, 2H), 3.90 (s, 3H), 3.01 (m, 3H), 2.32 (s, 3H), 1.71 (m, 2H), 1.48-1.61 (m, 2H), 1.45 (s, 9H); MS (ES) [M−H] 415.1.

reactant | methyl 3-amino-2-methyl-5-(trifluoromethyl)benzoate | 25.7 mmol, 6.00 g | NC=1C(=C(C(=O)OC)C=C(C1)C(F)(F)F)C | C10H10F3NO2
reactant | N-Boc piperidinone | 33.4 mmol, 6.70 g | C(=O)(OC(C)(C)C)N1C(CCCC1)=O | C10H17NO3
reactant | sodium triacetoxyborohydride | 64.3 mmol, 13.6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
solvent | AcOH | 6 mL | CC(=O)O | C2H4O2
product | tert-Butyl-4-{[3-(methoxycarbonyl)-2-methyl-5-(trifluoromethyl)phenyl]amino}piperidine-1-carboxylate | 10.6 g, 98% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C(=CC(=C1)C(F)(F)F)C(=O)OC)C | C20H27F3N2O4
